// d2b_4bit gold smoke testbench
// VIN ramps 0→0.9V over 100ns. Timer-sampled 4-bit quantizer.
// Check: DOUT code is monotonically non-decreasing with VIN.
simulator lang=spectre
global 0

ahdl_include "d2b_4bit.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0.0
Vvin (vin  0) vsource type=pwl wave=[0 0.0  100n 0.9]

IDUT (vdd vss vin DOUT3 DOUT2 DOUT1 DOUT0) d2b_4bit tedge=50p dt=2n

tran tran stop=100n maxstep=2n
save vin DOUT3 DOUT2 DOUT1 DOUT0
